US09102673B2
Step 6: 1-tert-butyl 2-ethyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate
To solution of tert-butyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (349 mg, 0.76 mmol) in THF (15 mL) cooled to −78 C was added LDA (0.57 mL, 1.1 mmol, 2 M). After 30 min at this temperature, ethyl chloroformate (0.15 mL, 1.5 mmol) was added and the mixture was warmed to r.t. slowly. The reaction mixture was then quenched with 5% potassium bisulfate and extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified on silica (gradient elution, 0-30% EtOAc/hexanes) to yield the title product (362 mg). HRMS (ESI) calc (M+H)+=529.1348. found 529.1346.

reactant | tert-butyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 0.76 mmol, 349 mg | ClC=1N=CC=C2C1N(C=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OC(C)(C)C | C21H20ClF3N2O4
reactant | LDA | 1.1 mmol, 2 M, 0.57 mL | [Li+].CC(C)[N-]C(C)C
reactant | ethyl chloroformate | 1.5 mmol, 0.15 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 2-ethyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | 362 mg | ClC=1N=CC=C2C1N(C(=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC)C(=O)OC(C)(C)C | C24H24ClF3N2O6
